US07504420B2
(5-(benzyloxy)pyridin-3-yl)methanamine
To a stirring solution of 181 mg of 3-(azidomethyl)-5-(benzyloxy)pyridine in 6 mL of THF at 0° C. was added 80.6 mg (2.12 mmol) of LiAlH4. The ice bath was removed and stirring was continued with warming to r.t. After 30 min. the reaction was quenched by adding successively 160 μL of H2O, 160 μL of 15% aqueous NaOH, and 480 μL of brine. The mixture was filtered through Celite and concentrated. The crude product was used for the next reaction without further purification.

reactant | 3-(azidomethyl)-5-(benzyloxy)pyridine | 181 mg | N(=[N+]=[N-])CC=1C=NC=C(C1)OCC1=CC=CC=C1 | C13H12N4O
reactant | LiAlH4 | 2.12 mmol, 80.6 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (5-(benzyloxy)pyridin-3-yl)methanamine | C(C1=CC=CC=C1)OC=1C=C(C=NC1)CN | C13H14N2O
